US04593107
neutralizing the 5-acetyloxy-L-tryptophane acetate with ammonium hydroxide to obtain 5-acetyloxy-L-tryptophane.

reactant | 5-acetyloxy-L-tryptophane acetate | C(C)(=O)O.C(C)(=O)OC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-acetyloxy-L-tryptophane | C(C)(=O)OC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1 | C13H14N2O4
